US06124283
(R)-N-[8-(4-Methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-bromobenzamide
To an ice-cooled solution of (R)-2-amino-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene (130 mg, 0.53 mmol) and triethylamine (110 μL, 0.79 mmol) in methylene chloride (25 mL) was added dropwise 4bromobenzoyl chloride (122 mg, 0.56 mmol) in methylene chloride (5 mL). After the addition, the reaction was allowed to stir at ambient temperature for 15 min and was then washed with dilute aqueous sodium hydrogen carbonate. The phases were separated and the organic phase was dried (Na2SO4), filtered and evaporated in vacuo to give a crude product which was purified on a silica gel column using chloroform/ethanol saturated with NH3 (100:4) as the eluent. Yield: 120 mg (51%) of the title compound as white crystals: mp 200-201° C.; [α]21D -32° (c 1.0, chloroform); EIMS (70 eV) m/z (relative intensity) 427 and 429 (3, M+).

reactant | (R)-2-amino-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene | 0.53 mmol, 130 mg | N[C@H]1CC2=C(C=CC=C2CC1)N1CCN(CC1)C | C15H23N3
reactant | triethylamine | 0.79 mmol, 110 μL | C(C)N(CC)CC | C6H15N
reactant | 4bromobenzoyl chloride | 0.56 mmol, 122 mg | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | (R)-N-[8-(4-Methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-bromobenzamide | CN1CCN(CC1)C=1C=CC=C2CC[C@H](CC12)NC(C1=CC=C(C=C1)Br)=O | C22H26BrN3O
